US05426119
7-(2-(4-Chlorobenzenesulphonylamino)indan-5-yl )-7-(3-pyridyl)heptanoic acid
Prepared analogously to Example 19 by reduction of 7-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-7-(3-pyridyl)hept-6-enoic acid with platinum/charcoal.

reactant | 7-(2-(4-chlorobenzenesulphonylamino)indan-5-yl)-7-(3-pyridyl)hept-6-enoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(=CCCCCC(=O)O)C=1C=NC=CC1 | C27H27ClN2O4S
catalyst | platinum/charcoal | [Pt] | Pt
product | 7-(2-(4-Chlorobenzenesulphonylamino)indan-5-yl )-7-(3-pyridyl)heptanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CCCCCC(=O)O)C=1C=NC=CC1 | C27H29ClN2O4S
